US07964645B2
Preparation of rac-4-Fluoro-N-{[(phenyl-thiophen-2-yl-methyl)-carbamoyl]-methyl}-benzamide
Prepared in analogy to example 1.1 from 4-fluoro-hippuric acid (CA [366-79-0]) and rac-C-phenyl-C-thiophen-2-yl-methylamine (CA [5693-42-5]).

reactant | 4-fluoro-hippuric acid | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
reactant | rac-C-phenyl-C-thiophen-2-yl-methylamine | C1(=CC=CC=C1)C(C=1SC=CC1)N | C11H11NS
product | rac-4-Fluoro-N-{[(phenyl-thiophen-2-yl-methyl)-carbamoyl]-methyl}-benzamide | FC1=CC=C(C(=O)NCC(NC(C=2SC=CC2)C2=CC=CC=C2)=O)C=C1 | C20H17FN2O2S
